US05998470
b) (2S)-2-(benzyloxycarbonyl)amino-N-(4-carboethoxythiazol-2-yl)methyl-4-methylpentanamide
Following the procedure of Example 13, except substituting 1-(tert-butoxycarbonyl)amino-1-(4-carboethoxytiazol-2-yl)methane for (1S)-1-(tert-butoxycarbonyl)amino-1-(4-carboethoxythiazol-2-yl)-3-methylbutane, and N-Cbz-L-leucine for N-Cbz-L-leucinyl-L-leucine, the title compound was prepared (0.120 g, 32%). MS (MH+): 434.2.

reactant | (1S)-1-(tert-butoxycarbonyl)amino-1-(4-carboethoxythiazol-2-yl)-3-methylbutane | C(C)(C)(C)OC(=O)N[C@@H](CC(C)C)C=1SC=C(N1)C(=O)OCC | C16H26N2O4S
reactant | N-Cbz-L-leucine | C(=O)(OCC1=CC=CC=C1)N[C@@H](CC(C)C)C(=O)O | C14H19NO4
reactant | N-Cbz-L-leucinyl-L-leucine | C(=O)(OCC1=CC=CC=C1)N[C@@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)O | C20H30N2O5
product | (2S)-2-(benzyloxycarbonyl)amino-N-(4-carboethoxythiazol-2-yl)methyl-4-methylpentanamide | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)NCC=1SC=C(N1)C(=O)OCC)CC(C)C | C21H27N3O5S
